US07449460B2
A mixture of 130 mg (0.23 mmol) of 6-amino-4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)phenylamino]-7-(4-pyrrolidin-1-yl-piperidin-1-yl)quinoline-3-carbonitrile, 12.0 mg (0.4 mmol) of paraformaldehyde, 25.0 mg (0.39 mmol) of sodium cyanoborohydride and 2 drops of acetic acid in 15 mL of ethanol is heated under reflux for 8 hours. The mixture is cooled to room temperature and solvent removed in vacuo. A 12 mL solution of 1N sodium hydroxide is added to the residue, and the mixture is stirred. A crude solid is collected by filtration, washed with water and dried. Purification by silica gel chromatography (gradient 95:5 methylene chloride/methanol to 4:1 methylene chloride/methanol) gives 66.0 mg of the 4-({3-Chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-6-(methylamino)-7-(4-pyrrolidin-1-ylpiperidin-1-yl)quinoline-3-carbonitrile as an yellow solid, mp 242-250° C.

reactant | 6-amino-4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)phenylamino]-7-(4-pyrrolidin-1-yl-piperidin-1-yl)quinoline-3-carbonitrile | 0.23 mmol, 130 mg | NC=1C=C2C(=C(C=NC2=CC1N1CCC(CC1)N1CCCC1)C#N)NC1=CC(=C(C=C1)SC=1N(C=CN1)C)Cl | C29H31ClN8S
reactant | paraformaldehyde | 0.4 mmol, 12.0 mg | C=O | CH2O
reactant | sodium cyanoborohydride | 0.39 mmol, 25.0 mg | C(#N)[BH3-].[Na+]
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 4-({3-Chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-6-(methylamino)-7-(4-pyrrolidin-1-ylpiperidin-1-yl)quinoline-3-carbonitrile | 66.0 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)NC)N1CCC(CC1)N1CCCC1)C#N | C30H33ClN8S
